US04186199
A mixture of 286.8 g of 1-(2-acetamidophenyl)-5-chloro-indoline and 1250 ml POCl3 is stirred for 1 hour at room temperature and then slowly heated to reflux. After 20 hours, the resulting solution is permitted to cool and the POCl3 is distilled off at reduced pressure. The residue is then cautiously triturated with absolute ethanol (spontaneous vigorous boiling) and then boiled for 0.5 hour. After cooling to room temperature, the resulting solid is filtered, washed with ethanol and then with ether and dried at 60° C. under vacuum to give 4-chloro-1,2-dihydro-6-methylindolo[1,7-ab][1,5]benzodiazepine hydrochloride, m.p. 251°-254° C. dec.

reactant | 1-(2-acetamidophenyl)-5-chloro-indoline | 286.8 g | C(C)(=O)NC1=C(C=CC=C1)N1CCC2=CC(=CC=C12)Cl | C16H15ClN2O
solvent | POCl3 | 1250 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-1,2-dihydro-6-methylindolo[1,7-ab][1,5]benzodiazepine hydrochloride | Cl.ClC=1C=C2CCN3C2=C(C(=NC2=C3C=CC=C2)C)C1 | InChI=1S/C16H13ClN2.ClH/c1-10-13-9-12(17)8-11-6-7-19(16(11)13)15-5-3-2-4-14(15)18-10;/h2-5,8-9H,6-7H2,1H3;1H
